US04036979
In the manner described in Example 1, ethyl isocyanate is allowed to react with 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine hydrochloride to afford 10.1 grams of 1-ethyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea. Recrystallization of the crude product from 2-propanol-water (9/1) affords crystals which are dissolved in chloroform and washed successively with 1N sulfuric acid, water and saturated sodium bicarbonate solution. This gives the desired product, melting point 184° C. to 188.5° C. after evaporation of the chloroform.

reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
reactant | 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine hydrochloride | Cl.S1C2=C(C=C1)C(CCC2)N
product | 1-ethyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | 10.1 grams | C(C)NC(=O)NC1CCCC=2SC=CC21 | C11H16N2OS
